US03959322
2-Ethyl-2-(6-m-methoxyphenyl-5-methyl-3-oxohexyl)cyclopentane-1,3-dione
Add a mixture of 1-diethylamino-6-(m-methoxyphenyl)-5-methylhexan-3-one and 5-methyl-6-(m-methoxyphenyl)hex-1-en-3-one (6 g, prepared by slow distillation of the former substance) to 2-ethylcyclopentane-1,3-dione (3.5 g) in 0.12% methanolic potassium hydroxide (10 cc) and heat the mixture under reflux for 6 hours. Remove most of the solvent under reduced pressure and add ether (25 cc) and benzene (25 cc) to the residue. Wash the solution with 5% aqueous sodium hydroxide, water, dilute hydrochloric acid, and brine, and dry. Evaporate the solvent to obtain a viscous brown gum, which is the triketone 2-ethyl-2-(6-m-methoxyphenyl-5-methyl-3-oxohexyl)cyclopentane-1,3-dione.

reactant | 1-diethylamino-6-(m-methoxyphenyl)-5-methylhexan-3-one | C(C)N(CCC(CC(CC1=CC(=CC=C1)OC)C)=O)CC | C18H29NO2
reactant | 5-methyl-6-(m-methoxyphenyl)hex-1-en-3-one | CC(CC(C=C)=O)CC1=CC(=CC=C1)OC | C14H18O2
reactant | 2-ethylcyclopentane-1,3-dione | 3.5 g | C(C)C1C(CCC1=O)=O | C7H10O2
solvent | potassium hydroxide | 10 cc | [OH-].[K+]
product | 2-Ethyl-2-(6-m-methoxyphenyl-5-methyl-3-oxohexyl)cyclopentane-1,3-dione | C(C)C1(C(CCC1=O)=O)CCC(CC(CC1=CC(=CC=C1)OC)C)=O | C21H28O4
